US06307051B1
4-(4-chloro-but-2-ynoxy)-2-isopropylidenecoumaran-3-one
A mixture of 5.0 g 4-hydroxy-2-isopropylidenecoumaran-3-one, 4.6 g potassium carbonate, 3.3 ml 1,4-dichloro-but-2-yne and 100 ml dimethylformamide is warmed to 50° C. for 3 hours, then evaporated, mixed with water and extracted with dichloromethane. After evaporation of the extract, the residue (9.2 g) is purified by silica gel chromatography (eluent isohexane/ethyl acetate 9:1) to give 2.2 g of the desired intermediate.

reactant | 4-hydroxy-2-isopropylidenecoumaran-3-one | 5.0 g | OC1=C2C(C(OC2=CC=C1)=C(C)C)=O | C11H10O3
reactant | potassium carbonate | 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dichloro-but-2-yne | 3.3 ml | ClCC#CCCl | C4H4Cl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(4-chloro-but-2-ynoxy)-2-isopropylidenecoumaran-3-one | 2.2 g | ClCC#CCOC1=C2C(C(OC2=CC=C1)=C(C)C)=O | C15H13ClO3
